US07279481B2
3-[3-(2-Hydroxyethyl)phenyl]-1,3-oxazolidin-2-one
A solution 2-(3-bromophenyl)ethanol (1.00 g, 5.00 mmol), 2-oxazolidin-2-one (874 mg, 10.04 mmol), copper(I)iodide (96 mg, 0.50 mmol), N,N′-dimethyl-1,2-ethanediamine (60 μL, 49 mg, 0.56 mmol) and potassium carbonate (1.04 g, 7.50 mmol) were suspended in dioxane (6 mL). The mixture was stirred under nitrogen for 2.5 h at 100° C. After addition of copper(I)iodide (96 mg, 0.50 mmol) and N,N′-dimethyl-1,2-ethanediamine (60 μl, 49 mg, 0.56 mmol) stirring was continued for another 2 h at 100° C. After cooling down to room temperature, the mixture was poured into saturated aqueous ammonium chloride solution and extracted with dichloromethane. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The crude compound was purified by flash chromatography on silica gel, eluting with ethyl acetate-cyclohexane (1:1 to 1:0) affording the title compound in 64% yield (664 mg).

reactant | 2-(3-bromophenyl)ethanol | 5.00 mmol, 1.00 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | N,N′-dimethyl-1,2-ethanediamine | 0.56 mmol, 60 μL, 49 mg | CNCCNC | C4H12N2
reactant | potassium carbonate | 7.50 mmol, 1.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethyl-1,2-ethanediamine | 0.56 mmol, 60 μl, 49 mg | CNCCNC | C4H12N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I)iodide | 0.50 mmol, 96 mg | [Cu]I
catalyst | copper(I)iodide | 0.50 mmol, 96 mg | [Cu]I
product | 3-[3-(2-Hydroxyethyl)phenyl]-1,3-oxazolidin-2-one | 64% yield | OCCC=1C=C(C=CC1)N1C(OCC1)=O | C11H13NO3
